US08242124B2
To a solution of (1-(4-methoxy-1H-pyrrolo[2,3-c]pyridin-7-yl)-1H-1,2,4-triazol-3-yl)methanol (70 mg, 0.285 mmol) in THF (5 mL) was added ethylmagnesium bromide (1.284 mL, 1.284 mmol) at −40° C. After stirring at −5° C. for 1H, pyridine (0.012 mL, 0.143 mmol) was added quickly. The mixture was cooled to −40° C. and ethyl 2-chloro-2-oxoacetate (0.130 mL, 1.142 mmol) was added. After stirring at −40° C. for 30 min, the reaction mixture was quenched by adding i-PrOH and water. The mixture was extracted with EtOAc (2×40 mL). The organic layers were combined, washed with brine (30 mL), dried over MgSO4 and concentrated under vacuum to give crude product ethyl 2-(7-(3-(hydroxymethyl)-1H-1,2,4-triazol-1-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetate (70 mg, 0.203 mmol, 71.0% yield). LCMS: m/z 346.1 (M+H)+, 1.42 min (method 8).

reactant | (1-(4-methoxy-1H-pyrrolo[2,3-c]pyridin-7-yl)-1H-1,2,4-triazol-3-yl)methanol | 0.285 mmol, 70 mg | COC1=C2C(=C(N=C1)N1N=C(N=C1)CO)NC=C2 | C11H11N5O2
reactant | ethylmagnesium bromide | 1.284 mmol, 1.284 mL | C(C)[Mg]Br
reactant | pyridine | 0.143 mmol, 0.012 mL | N1=CC=CC=C1 | C5H5N
reactant | ethyl 2-chloro-2-oxoacetate | 1.142 mmol, 0.130 mL | ClC(C(=O)OCC)=O | C4H5ClO3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | ethyl 2-(7-(3-(hydroxymethyl)-1H-1,2,4-triazol-1-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetate | 0.203 mmol, 70 mg, 71.0% yield | OCC1=NN(C=N1)C=1N=CC(=C2C1NC=C2C(C(=O)OCC)=O)OC | C15H15N5O5
